* /Users/leo/projetos/pessoal/MODELAGEM-CONVERSORES/sepic/sepic.asc
* Generated by LTspice 26.0.2 for MacOS.
D1 N002 Vout_circuito Dideal
L1 Vin N001 {L1}
C1 N001 N002 {C1}
V§PWM pwm 0 PULSE(0 15 0 1n 1n {Ton} {T})
R1 Vout_circuito 0 {R}
S1 N001 0 pwm 0 SWideal
B1 Vin 0 V=if(time<15m,{Vin},{Vin-5})
L2 N002 0 {L2}
C2 Vout_circuito 0 {C2}
X§U2 Vin Vout_modelo 4 A11={A11} A12={A12} A13={A13} A14={A14} B11={B11} A21={A21} A22={A22} A23={A23} A24={A24} B21={B21} A31={A31} A32={A32} A33={A33} A34={A34} B31={B31} A41={A41} A42={A42} A43={A43} A44={A44} B41={B41} C11={C11} C12={C12} C13={C13} C14={C14} D11={D11} ic1={IC1} ic2={IC2} ic3={IC3} ic4={IC4} ;§pnba in)out
.model D D
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.param Vin=48
.param L1=500u
.param C1=47u
.param R=5
.param L2=1m
.param C2=47u
.param Fsw=20k
.param D=0.4
.param T={1/Fsw}
.param Ton={D*T}
.model Dideal D(Ron=1m Roff=1G Vfwd=0)
.model SWideal SW(Ron=1m Roff=1G Vt=0.5 Vh=0)
.tran 30m uic
.param A11=0
.param A12=-1200
.param A13=0
.param A14=-1200
.param A21=12765.957
.param A22=0
.param A23=-8510.638
.param A24=0
.param A31=0
.param A32=400
.param A33=0
.param A34=-600
.param A41=12765.957
.param A42=0
.param A43=12765.957
.param A44=-4255.319
.param B11=2000
.param B21=0
.param B31=0
.param B41=0
.param C11=0
.param C12=0
.param C13=0
.param C14=1
.param D11=0
.param IC1=0
.param IC2=0
.param IC3=0
.param IC4=0
* Library below included based on ModelFile attribute of instance X§U2 (Y:\projetos\pessoal\MODELAGEM-CONVERSORES\sepic\StateSpace4.asy)
.lib statespace.sub
.backanno
.end
